US08835428B2
Step 6: Methyl 2-(3-(4-(benzyloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate
To 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylic acid (300 mg) in THF (10 ml), N-methyl morpholine (0.111 ml) was added and reaction mixture was stirred for 10 minutes at RT. Reaction mixture was cooled to −20° C., isobutyl chloroformate (0.132 ml) was added and stirred for 15-20 minutes at −20 to −30° C. L-valine methyl ester hydrochloride (238 mg) neutralized with Et3N (0.198 ml) in THF (5 ml) and added to the above reaction mixture and stirred at −20 to −30° C. for 5 minutes. Then the reaction mixture was gradually allowed to warm to RT over a period of 1 hour. Solvent was evaporated to obtain pale brown solid, which was purified by column chromatography (silica gel, EtOAc—Chloroform) to obtain off white solid, which was crystallized using EtOAc—petroleum ether to obtain the title compound as white solid. Yield: 232 mg (55%); MS (ES+): m/z 409 (M+1); 1H NMR (DMSO-d6; 300 MHz): δ 9.19 (d, 1H), 7.87 (d, 2H), 7.68 (s, 1H), 7.32-7.49 (m, 5H), 7.19 (d, 2H), 5.19 (s, 2H), 4.31 (m, 1H), 3.67 (s, 3H), 2.22 (m, 1H), 0.96 (d, 6H).

reactant | 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylic acid | 300 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O | C17H13NO4
reactant | isobutyl chloroformate | 0.132 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-valine methyl ester hydrochloride | 238 mg | Cl.COC([C@@H](N)C(C)C)=O
reactant | Et3N | 0.198 ml | CCN(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | N-methyl morpholine | 0.111 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 2-(3-(4-(benzyloxy)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C | C23H24N2O5
